US04563310
A mixture of methyl P-ethyl-2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenylphosphinate (0.6 g.), methanol (10 ml.) and 5% aqueous potassium hydroxide (10 ml.) is heated to 90° for 15 min. The basic aqueous solution is acidified and extracted with ether. The combined ether extracts are washed and dried and the solvent is evaporated off to give P-ethyl-2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenyl-phosphinic acid.

reactant | methyl P-ethyl-2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenylphosphinate | 0.6 g | C(C)P(OC)(=O)C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)Cl)[N+](=O)[O-] | C14H13Cl2N2O5P
reactant | potassium hydroxide | 10 ml | [OH-].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | P-ethyl-2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenyl-phosphinic acid | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)Cl)[N+](=O)[O-] | C13H11Cl2N2O5P
